US04370329
8.3 g of 3,4,5-trimethoxybenzyl chloride and 4.15 g of N-(2-nitrophenyl)-piperazine and 3.5 g of K2CO3 are reacted and processed according to example 2. 5.5 g of N-(3,4,5-trimethoxy-benzyl)-N'-(2-nitrophenyl)-piperazine hydrochloride is obtained.

reactant | 3,4,5-trimethoxybenzyl chloride | 8.3 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | N-(2-nitrophenyl)-piperazine | 4.15 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
product | N-(3,4,5-trimethoxy-benzyl)-N'-(2-nitrophenyl)-piperazine hydrochloride | 5.5 g | Cl.COC=1C=C(CN2CCN(CC2)C2=C(C=CC=C2)[N+](=O)[O-])C=C(C1OC)OC | InChI=1S/C20H25N3O5.ClH/c1-26-18-12-15(13-19(27-2)20(18)28-3)14-21-8-10-22(11-9-21)16-6-4-5-7-17(16)23(24)25;/h4-7,12-13H,8-11,14H2,1-3H3;1H
